US04595753
Preparation of Ethylsulfonylethyl Diphenyl Phosphine
A mixture of 64 g (0.34 mole) of diphenyl phosphine and 40.2 g (0.33 mole) of highly reactive, freshly distilled vinyl ethyl sulfone monomer was irradiated in the usual manner. To suppress polymer forming side reactions the temperature of the reaction mixture was kept below 5° C. by an ice-water bath and the u.v. irradiation was limited to 105 minutes. The adduct formed crystallized from the liquid mixture by the end of the reaction period. Consequently, the reaction mixture was filtered with suction to recover the crude, crystalline product, i.e. 2-ethylsulfonylethyl diphenyl phosphine. The crude, dried product (94 g, 94) was recrystallized from 670 ml methanol to yield 69 g (69%) of the compound (of unpleasant odor) as a white crystalline solid (Table 3).

reactant | diphenyl phosphine | 0.34 mole, 64 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | vinyl ethyl sulfone | C(C)S(=O)(=O)C=C | C4H8O2S
product | Ethylsulfonylethyl Diphenyl Phosphine | 69 g, 69% | C(C)S(=O)(=O)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19O2PS
